US06982348B2
N-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-methyl-1-naphthalenecarboxamide
To a solution of N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-methyl-1-naphthalenecarboxamide (400 mg, 0.83 mmol) in methanol (30 ml) was added manganese (II) chloride (210 mg, 1.67 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction solution were added sodium borohydride (63 mg, 1.67 mmol) under ice-cooling, and the mixture was stirred for 1 hr. The reaction solution was poured into 1N hydrochloric acid (30 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1), and the obtained crude crystal was washed with a mixed solvent of hexane:ethyl acetate=10:1 to give the title compound ((1RS,2SR) form: (1RS,2RS) form=1:2, 329 mg, 82%).

reactant | N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-methyl-1-naphthalenecarboxamide | 0.83 mmol, 400 mg | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C2=CC=CC=C12)C)=O | C28H21F4NO2
reactant | sodium borohydride | 1.67 mmol, 63 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | manganese (II) chloride | 1.67 mmol, 210 mg | [Cl-].[Mn+2].[Cl-]
product | N-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-methyl-1-naphthalenecarboxamide | 329 mg, 82% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C2=CC=CC=C12)C)O | C28H23F4NO2
